US04237144
A benzene solution (25 ml.) containing 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxylic acid (3.4 g., 0.01 mole) and thionyl chloride (2 ml.) is refluxed for two hours. Evaporation of the benzene and excess thionyl chloride leaves the 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carbonyl chloride which is used in Step B without further purification.

reactant | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxylic acid | 0.01 mole, 3.4 g | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O4S
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carbonyl chloride | ClC1=C(C2=C(CC(O2)C(=O)Cl)C=C1C(C1=CC=CS1)=O)Cl | C14H7Cl3O3S
